US04454138
1,3-Di-n-butyl-6-thioxanthine (5,6 g) was treated with sodium (0,46 g) in absolute ethanol (20 ml) to give the 1,3-di-n-butyl-6-thioxanthine sodium salt by heating under reflux for one hour. 1-chloropropan-2-one (2,31 g) dissolved in ethanol (20 ml) was added dropwise and the reaction mixture heated under reflux for a further 5 hours. The reaction was then complete (as judged by TLC). After standing overnight, the precipitated sodium chloride was filtered off under suction. The dark filtrate was extracted with chloroform. The chloroform phase was washed three times with 1N NaOH, washed with water, dried with sodium sulphate, filtered and the chloroform was removed in vacuo to yield a dark brown residue. On crystallisation from ethanol the residue gave 1,3-di-n-butyl-7-(2-oxo-propyl)-6-thioxanthine as a white powder.

reactant | 1,3-Di-n-butyl-6-thioxanthine | 5,6 g | C(CCC)N1C(=O)N(C=2N=CNC2C1=S)CCCC | C13H20N4OS
reactant | sodium | 0,46 g | [Na] | Na
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1,3-di-n-butyl-6-thioxanthine sodium salt | [Na].C(CCC)N1C(=O)N(C=2N=CNC2C1=S)CCCC | InChI=1S/C13H20N4OS.Na/c1-3-5-7-16-11-10(14-9-15-11)12(19)17(13(16)18)8-6-4-2;/h9H,3-8H2,1-2H3,(H,14,15);
